* 6V to 208V boost, 100W
* D=1-6/208=971m, t_on=9.71u, Rload=433
* L1 on input side, M1 is low-side switch
Vin in 0 6
L1 in sw 220u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 433
Rbleed sw 0 1Meg
Vgate gate 0 PULSE(0 12 0 1n 1n 9.71u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.end
